US07964613B2
(S)-3-(2-Bromoacetyl)amino-1-(tert-butoxycarbonyl)pyrrolidine
A solution of (S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine (5.21 g) and triethylamine (4.68 ml) in dichloromethane (25 ml) was slowly added with bromoacetyl bromide (6.21 g, Wako Pure Chemical Industries) at 0° C., and the mixture was stirred at room temperature for 18.5 hours. The reaction mixture was added with 0.5 N hydrochloric acid, and the organic layer was separated. The aqueous layer was further extracted with dichloromethane, the combined organic layer was successively washed with saturated aqueous sodium hydrogencarbonate, and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound (6.54 g).

reactant | (S)-3-amino-1-(tert-butoxycarbonyl)pyrrolidine | 5.21 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 4.68 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 6.21 g | BrCC(=O)Br | C2H2Br2O
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (S)-3-(2-Bromoacetyl)amino-1-(tert-butoxycarbonyl)pyrrolidine | 6.54 g | BrCC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C11H19BrN2O3
